US08604069B2
(A-27-13) 3-[5-Cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]-4-(2,4-dimethylphenylcarbamoyl)butyric acid
tert-Butyl 3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]-4-(2,4-dimethylphenylcarbamoyl)butyrate (100 mg) and chloroform (0.8 mL) were mixed. To the mixture was added trifluoroacetic acid (0.2 mL) at ice temperature. After stirring at RT for 6 hr, the reaction mixture was concentrated in vacuo. The resultant residue was purified by preparative chromatography (Eluent: chloroform/methanol/acetic acid=20/1/0.1) to give the title compound (79.5 mg).

reactant | tert-Butyl 3-[5-cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]-4-(2,4-dimethylphenylcarbamoyl)butyrate | 100 mg | C1(CC1)C1=C(N=NN1C1CC(C1)CC(C)C)C(CC(=O)OC(C)(C)C)CC(NC1=C(C=C(C=C1)C)C)=O | C30H44N4O3
reactant | trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 0.8 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-[5-Cyclopropyl-1-(3-isobutylcyclobutyl)-1H-[1,2,3]triazol-4-yl]-4-(2,4-dimethylphenylcarbamoyl)butyric acid | 79.5 mg | C1(CC1)C1=C(N=NN1C1CC(C1)CC(C)C)C(CC(=O)O)CC(NC1=C(C=C(C=C1)C)C)=O | C26H36N4O3
